US06337326B1
[1,4]Diazepane-1-carboxylic acid tert-butyl ester
To 5.0 g (50 mmol) of homopiperazine in 200 mL MeOH at 0° C. was added a solution of 11.93 g (54.7 mmol) of (Boc)2O and 100 mL MeOH in drops over 1 h. The mixture was warmed to 23° C. and then warmed to 50° C. for 3 h. After cooling to 23° C., the resulting reaction mixture was filtered through Celite and the solvent was evaporated to a volume of 100 mL. This solution was extracted with 3×100 mL of 1N citric acid, the combined aqueous layers are washed with 1×100 mL EtOAc and then the aqueous solution was basified to pH=11 with solid Na2CO3. The resulting slurry was extracted with 3×100 mL EtOAc, the combined organics were dried over Na2SO4, filtered and evaporated to give 3.2 g (15.9 mmol, a 32% yield) of the title compounds as a light yellow oil. 1H NMR (300 MHz, CDCl3): δ1.46 (s, 9H), 1.70-1.85 (m, 2H), 2.81-2.96 (m, 4H), 3.37-3.53 (m, 4H); IR (KBr, cm−1): 3348w, 1960s; MS (ES) m/z (relative intensity): 201 (M++H, 100).

reactant | homopiperazine | 50 mmol, 5.0 g | N1CCNCCC1 | C5H12N2
reactant | (Boc)2O | 54.7 mmol, 11.93 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | KBr | [K+].[Br-]
solvent | MeOH | 200 mL | CO | CH4O
solvent | MeOH | 100 mL | CO | CH4O
product | [1,4]Diazepane-1-carboxylic acid tert-butyl ester | 32% yield | C(C)(C)(C)OC(=O)N1CCNCCC1 | C10H20N2O2
